US07566699B2
To a solution of 3-[2-(4-benzyloxycarbonylphenyl)ethyl]-4-hydroxybenzo[b]thiophene (35 mg) and 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose (53 mg) in dichloromethane (3 mL) was added boron trifluoride-diethyl ether complex (0.006 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1-3/2) to give 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-benzyloxycarbonylphenyl)ethyl]benzo[b]thiophene (38 mg). This material was dissolved in dichloromethane (1 mL). To the solution were added dimethyl sulfide (0.15 mL) and boron trifluoride-diethyl ether complex (0.067 mL), and the mixture was stirred at 35° C. for 4 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=20/1) to give the title compound (25 mg).

reactant | 3-[2-(4-benzyloxycarbonylphenyl)ethyl]-4-hydroxybenzo[b]thiophene | 35 mg | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)CCC=1C2=C(SC1)C=CC=C2O | C24H20O3S
reactant | 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose | 53 mg | C(C)(=O)O[C@H]1[C@@H](OC(C(Cl)(Cl)Cl)=N)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H20Cl3NO10
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-benzyloxycarbonylphenyl)ethyl]benzo[b]thiophene | 38 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC=2SC=C(C21)CCC2=CC=C(C=C2)C(=O)OCC2=CC=CC=C2 | C38H38O12S
